US05324747
A mixture of 46.3 g (0.091 mol) of 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid methyl ester and 45 ml (0.27 mol) of 6N NaOH in 750 ml of methanol and 300 ml of dioxane was stirred at reflux for 4 hours. The reaction mixture was filtered and the filtrate was concentrated at reduced pressure. The residue was suspended in water, acidified and filtered to give 44.4 g (99% yield, mp 97°-99°) of 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid.

reactant | 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid methyl ester | 0.091 mol, 46.3 g | COC(C1=CC(=CC(=C1)OCC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C33H50O4
reactant | NaOH | 0.27 mol, 6N, 45 ml | [OH-].[Na+]
solvent | methanol | 750 ml | CO | CH4O
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
product | 3-(octadecyloxy)-5-(phenylmethoxy)benzoic acid | 44.4 g, 99% yield | C(CCCCCCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=C(C1)OCC1=CC=CC=C1 | C32H48O4
